US07977358B2
A) 2-Cyclopropanecarbonyl-3-oxo-butyric acid ethyl ester
To a solution of ethylacetoacetate (11.0 g, 85 mmol) in THF (20 ml) at 0° C. under argon atmosphere was added isopropylmagnesium chloride (42 ml, 2 M in THF, 85 mmol) dropwise. The reaction was stirred for 0.5 h. This solution was then transferred by cannula to a solution of cyclopropylcarbonylchloride (8.8 g, 85 mmol) and imidazole (0.3 g, 4 mmol) in THP (30 ml), also under argon at 0° C. The reaction was stirred for 2 h at 0° C. and 1 h at room temperature before the reaction was quenched by addition of 10% citric acid solution. The reaction was then extracted with EtOAc, dried (Na2SO4) and concentrated. Purification by flash column chromatography (EtOAc:n-heptane 5:95) afforded the title compound (11.9 g, 71%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 0.99-1.02 (2H, m), 1.22-1.24 (2H, m), 1.35 (3H, t, J=6 Hz), 2.32 (3H, s), 2.41-2.51 (1H, m), 4.30 (2H, q, J=6 Hz), 17.95 (1H, s).

reactant | ethylacetoacetate | 85 mmol, 11.0 g | C(C)OC(CC(=O)C)=O | C6H10O3
reactant | isopropylmagnesium chloride | 85 mmol, 2 M, 42 ml | C(C)(C)[Mg]Cl
reactant | cyclopropylcarbonylchloride | 85 mmol, 8.8 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | imidazole | 4 mmol, 0.3 g | N1C=NC=C1 | C3H4N2
product | 2-Cyclopropanecarbonyl-3-oxo-butyric acid ethyl ester | 11.9 g, 71% | C(C)OC(C(C(C)=O)C(=O)C1CC1)=O | C10H14O4
